US05134144
As described above 1-methyl-4-nitro-2-(2-propynyloxy)benzene was made, mp 75°-77° C. This compound, (26 g) was reduced using iron in ethanol and water to give 4-methyl-3-(2-propynyloxy)benzenamine isolated as the hydrochloride salt mp >250° C. This amine salt was converted to the isocyanate analogue using phosgene in ethyl acetate as solvent, i.e. 4-isocyanato-4-methyl- 2-(2-propynyloxy)benzene, bp 78°-80° C./0.05 mm. Ethyl 3-amino-4,4,4-trifluoro-2-butenoate (19.6 g) was converted to its sodium salt using sodium hydride (4.6 g., 60%) in THF (100 ml). This solution was chilled to -62° C. and treated with a solution of the isocyanate (20 g) in THF (15 ml) over 2 minutes. The reaction warmed to -48° C. before cooling again. After stirring to ambient temperature and overnight the solvent was removed, water (250 ml) added, filtered to remove the precipitate and acidified whereupon a second precipitate was obtained. This solid was collected on a filter washed with water and re-extracted into aqueous sodium bicarbonate. After filtering the clear filtrate was acidified and the resulting cream precipitate was collected on a filter, washed with water and dried to give 3-[4-methyl-3-(2-propynyloxy)phenyl]-6- (trifluoromethyl)-2,4-(1H,3H)-pyrimidinedione, mp 202°-204° C.

reactant | 1-methyl-4-nitro-2-(2-propynyloxy)benzene | CC1=C(C=C(C=C1)[N+](=O)[O-])OCC#C | C10H9NO3
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | iron | [Fe] | Fe
product | 4-methyl-3-(2-propynyloxy)benzenamine | CC1=C(C=C(C=C1)N)OCC#C | C10H11NO
